US08048887B2
5-(3-(2-Benzyl-2H-tetrazol-5-yl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide
Benzyl bromide (29 μL, 0.242 mmol) was added to a stirring solution of 5-(3-(1H-tetrazol-5-yl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (50 mg, 0.121 mmol) and Na2CO3 (26 mg, 0.242 mmol) in DMF (1.2 mL) at 100° C. It was allowed to stir overnight. The mixture was concentrated and purified by preparative reverse phase HPLC on a C18 column using a suitably buffered H2O/CH3CN gradient, and concentrated to give the titled compound (12 mg, 19%). 1H NMR (500 MHz, DMSO-d6) δ ppm 8.48-8.56 (1H, m), 8.30-8.35 (1H, m), 8.06 (1H, d, J=7.63 Hz), 7.98-8.03 (2H, m), 7.90-7.93 (2H, m), 7.78-7.83 (1H, m), 7.72-7.77 (1H, m), 7.69 (1H, t, J=7.78 Hz), 7.36-7.46 (7H, m), 6.04 (2H, s), 2.86 (3H, d, J=4.58 Hz). LC-MS retention time: 1.78 min; m/z (MH+): 504. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters XBridge 5u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 5% acetonitrile/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% acetonitrile/10 mM ammonium acetate. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. Additional HPLC method: Solvent A=5% CH3CN/95% H2O/0.1% TFA, Solvent B=95% CH3CN/5% H2O/0.1% TFA, Start % B=10, Final % B=100, Gradient time=15 min, Stop time=18 min, Flow Rate=1 ml/min. Column: Waters Sunfire C-18, 4.6×150 mm, 3.5 μm, Rt=15.69 min, purity=97%; Column: Waters XBridge phenyl column 4.6×150 mm, 3.5 μm, Rt=13.95 min, purity=98%.

reactant | Benzyl bromide | 0.242 mmol, 29 μL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 5-(3-(1H-tetrazol-5-yl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.121 mmol, 50 mg | N1N=NN=C1C=1C=C(C=CC1)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1 | C23H16FN5O2
reactant | Na2CO3 | 0.242 mmol, 26 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 1.2 mL | CN(C)C=O | C3H7NO
product | 5-(3-(2-Benzyl-2H-tetrazol-5-yl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 12 mg, 19% | C(C1=CC=CC=C1)N1N=C(N=N1)C=1C=C(C=CC1)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1 | C30H22FN5O2
